US08957062B2
Step B: [4-(benzyloxy)-2-methylphenyl]acetic acid
A solution of tert-butyl [4-(benzyloxy)-2-methylphenyl]acetate (1.05 g, 3.36 mmol) in DCM (8 ml) was treated with TFA (7.77 ml, 101 mmol) and the mixture stirred at RT for 30 min. The volatiles were removed in vacuo to afford the title compound. LC/MS (m/z): 257 (M+H)+.

reactant | tert-butyl [4-(benzyloxy)-2-methylphenyl]acetate | 3.36 mmol, 1.05 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC(=O)OC(C)(C)C)C | C20H24O3
reactant | TFA | 101 mmol, 7.77 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
product | [4-(benzyloxy)-2-methylphenyl]acetic acid | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC(=O)O)C | C16H16O3
